US08076478B2
(2) Synthesis of N,N,N′,N′-tetrakis(3-aminopropyl)ethylenediamine
5.00 g of N,N,N′,N′-tetrakis(2-cyanoethyl)ethylenediamine, 0.50 g of Raney Co and 50 mL of dioxane were charged in an autoclave and a hydrogenation reaction was carried out at an initial hydrogen pressure of 8.0 MPa at 100° C. for 2 hours. After the catalyst was removed by filtration, the filtrate was concentrated to dryness to give 5.09 g of the title compound as a pale red oil.

reactant | N,N,N′,N′-tetrakis(2-cyanoethyl)ethylenediamine | 5.00 g | C(#N)CCN(CCN(CCC#N)CCC#N)CCC#N | C14H20N6
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N,N,N′,N′-tetrakis(3-aminopropyl)ethylenediamine | 5.09 g | NCCCN(CCN(CCCN)CCCN)CCCN | C14H36N6
